US08211908B2
To a solution of 0.20 g of 3-amino-2-(1,3-dioxolan-2-ylmethyl)amino-6-methoxypyridine in 2 mL of dioxane, 0.22 g of a 45 to 50% toluene solution of ethyl oxoacetate was added, and the mixture was stirred at room temperature for 2 hours and then left overnight. Thereto was added 36 mg of 60% sodium hydride, and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture, water and ethyl acetate were added. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by flash silica gel column chromatography using gradient elution with hexane:ethyl acetate=100:0 to 50:50 to obtain 36 mg of 4-(1,3-dioxolan-2-ylmethyl)-6-methoxypyrido (2,3-b)pyrazin-3(4H)-one as a light brown solid.

reactant | 3-amino-2-(1,3-dioxolan-2-ylmethyl)amino-6-methoxypyridine | 0.20 g | NC=1C(=NC(=CC1)OC)NCC1OCCO1 | C10H15N3O3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl oxoacetate | O=CC(=O)OCC | C4H6O3
reactant | sodium hydride | 36 mg | [H-].[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-(1,3-dioxolan-2-ylmethyl)-6-methoxypyrido (2,3-b)pyrazin-3(4H)-one | 36 mg | O1C(OCC1)CN1C2=C(N=CC1=O)C=CC(=N2)OC | C12H13N3O4
